US08404436B1
(i) Ethyl 6-phenyl-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate
Ethyl 6-bromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate (0.185 g, 0.500 mmol), phenylboronic acid (0.76 g, 0.625 mmol, 1.2 equiv.) and potassium phosphate trihydrate (0.200 g, 0.750 mmol, 1.5 equiv.) were mixed together in a 10 ml microwave vial. The vial was purged with Argon and trans-dichlorobis(triphenylphosphine)-palladium (II) (0.0105 g, 0.015 mmol, 3 mol %) and 5 ml of dry dioxane were added to the mixture. The microwave vial was capped and irradiated at 100 watt, 150° C., under pressure up to 10 bars. Then it was allowed to cool down to rt, and toluene was removed under reduced pressure and the residue was dissolved in dichloromethane and washed with water. The organic layer was dried over magnesium sulfate, filtered, and evaporated to dryness. The residue was purified by silica gel column chromatography using 20% of ethyl acetate/cyclohexane as eluent to yield a light-beige-colored solid in 70-80%. 1H-NMR (DMSO-d6) δ 1.11, 1.35 (each t, 3H, 3J=7.1 Hz, CH3); 2.60 (m, 2H, 2′-H); 3.31 (m, 2H, 1′-H); 3.99, 4.35 (each q, 2H, 4J=7.1 Hz, CH2); 7.35 (m, 2H, 4-H, 5-H); 7.46 (m, 2H, 2″-H, 6″-H); 7.62 (dd, 1H, 4″-H); 7.65 (m, 2H, 3″-H, 5″-H); 7.75 (dd, 1H, 7-H); 11.63 (s, 1H, NH). 13C-NMR (DMSO-d6) δ 14.9, 15.1 (2CH3, each C═OOCH2CH3); 20.90 (C-2′); 35.9 (C-1′); 60.7, 61.2 (2CH2, each C═OOCH2CH3); 111.0 (C-7); 120.1 (C-4); 121.8 (C-3); 122.3 (C-3a), 124.8 (C-5) 127.2 (C-2″, C-6″); 127.7 (C-4″); 128.0 (C-3″, C-5″); 129.8 (C-2); 137.7 (C-7a); 138.2 (C-6); 141.9 (C-1″); 162.3 (2′-CO2Et); 173.1 (2-CO2Et). LC-MS (m/z): 383 [M-NH4+]+, 366 [M]+, 364 [M]−. Purity LC-MS: 96%.

reactant | Ethyl 6-bromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate | 0.500 mmol, 0.185 g | BrC1=CC=C2C(=C(NC2=C1)C(=O)OCC)CCC(=O)OCC | C16H18BrNO4
reactant | phenylboronic acid | 0.625 mmol, 0.76 g, 1.2 equiv. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate trihydrate | 0.750 mmol, 0.200 g, 1.5 equiv. | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | trans-dichlorobis(triphenylphosphine)-palladium (II) | 0.015 mmol, 0.0105 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | Ethyl 6-phenyl-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate | C1(=CC=CC=C1)C1=CC=C2C(=C(NC2=C1)C(=O)OCC)CCC(=O)OCC | C22H23NO4
